US06956049B1
Cinnamamide (1.9 g, 13 mmol) was mixed with chlorocarbonylsulphenylchloride (1.0 mL, 13 mmol) in chloroform and heated to reflux for 18 h. The reaction mixture was concentrated in vacuo and the resultant material was taken up in boiling hexane (100 mL). The solvent was decanted from the remaining solid, the volume of this solution was reduced by half, and the solution was allowed to cool. The crystalline solids which formed were collected and washed with hexane to afford 5-[(E)-2-phenylethenyl]-1,3,4-oxathiazol-2-one (1.93 g, 72% yield) as pale yellow needles. M.p. 105–106° C. 1H NMR (DMSO-d6, 300 MHz) δ 7.52 (m, 3H), 7.46 (s, 0.5H), 7.41 (m, 2.5H), 6.63 (d, J=16 Hz, 1H).

reactant | Cinnamamide | 13 mmol, 1.9 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
reactant | chlorocarbonylsulphenylchloride | 13 mmol, 1.0 mL | ClC(=O)SCl | CCl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-[(E)-2-phenylethenyl]-1,3,4-oxathiazol-2-one | 1.93 g, 72% yield | C1(=CC=CC=C1)/C=C/C1=NSC(O1)=O | C10H7NO2S
